US04271194
(a) (3,4-Dichlorophenylthio)-acetonitrile
17.9 g (0.10 mol) of 3,4-dichlorobenzenethiol are mixed in the cold with a solution of 4.1 g of sodium hydroxide (about 0.1 mol) in 50 ml of water. The mixture is heated to 60°-70° C. and 7.5 ml (0.12 mol; 20% excess relative to the 3,4-dichlorobenzenethiol) of chloroacetonitrile are added dropwise. The whole is then heated under reflux for about 30 minutes and cooled, the oil which has formed is extracted with ether, the ether solution is washed with dilute sodium hydroxide solution and water, until the pH of the wash waters is neutral, and dried over SO4Mg, the SO4Mg is filtered off, the ether is evaporated off and the expected nitrile, which is in the form of a chromatographically pure oil, is collected.

reactant | 3,4-dichlorobenzenethiol | 0.10 mol, 17.9 g | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | sodium hydroxide | about 0.1 mol, 4.1 g | [OH-].[Na+]
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | water | 50 ml | O | H2O
product | (3,4-Dichlorophenylthio)-acetonitrile | ClC=1C=C(C=CC1Cl)SCC#N | C8H5Cl2NS
